US04140775
In the manner given in Example 1B, 1-(3,5-difluorophenyl)-4-(p-nitrobenzyl)piperazine is reduced with aqueous titanium trichloride to give 1-(3,5-difluorophenyl)-4-[(4-aminophenyl)methyl-]piperazine.

reactant | 1-(3,5-difluorophenyl)-4-(p-nitrobenzyl)piperazine | FC=1C=C(C=C(C1)F)N1CCN(CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H17F2N3O2
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 1-(3,5-difluorophenyl)-4-[(4-aminophenyl)methyl-]piperazine | FC=1C=C(C=C(C1)F)N1CCN(CC1)CC1=CC=C(C=C1)N | C17H19F2N3
